US07615568B2
D. 2-Hydroxy-4-(methylthiomethyl)benzoic Acid
To a −78° C. mixture of methyl 2-methoxy-4-(methylthio-methyl)benzoate (5.29 (g, 23.36 mmol) and CH2Cl2 (80 mL) was added BBr3 (2.4 mL, 24.52 mmol) dropwise. The reaction was stirred for 15 min, warmed to room temperature and stirred for 6 h. The reaction mixture was added to ice/water (100 mL). The suspension was added 2 M NaOH to dissolve the precipitate. After partitioning, the organic layer was extracted with 2 M NaOH. The combined aqueous layer was washed with EtOAc, acidified with 12 N HCl and cooled to room temperature. The solid was filtered with water wash and vacuum dried to give the title compound as a light yellow solid (2.96 g, 64%).

reactant | methyl 2-methoxy-4-(methylthio-methyl)benzoate | COC1=C(C(=O)OC)C=CC(=C1)CSC | C11H14O3S
reactant | BBr3 | 24.52 mmol, 2.4 mL | B(Br)(Br)Br | BBr3
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 2-Hydroxy-4-(methylthiomethyl)benzoic Acid | 2.96 g, 64% | OC1=C(C(=O)O)C=CC(=C1)CSC | C9H10O3S
